US06329381B1
6-Amino-2-anilino-9-benzyl-8-hydroxypurine
6-Amino-2-anilino-9-benzyl-8-bromopurine (80 mg, 0.20 mmol) in concentrated hydrochloric acid (200 ml) and methanol (50 ml) were refluxed for 5 hours under heating. The reaction mixture was condensed in vacuo, 28% aqueous ammonia was added to the residue. The resulting solid was filtered, washed with water and dried to give the subject compound (67 mg yield: quantitatively).

reactant | 6-Amino-2-anilino-9-benzyl-8-bromopurine | 0.20 mmol, 80 mg | NC1=C2N=C(N(C2=NC(=N1)NC1=CC=CC=C1)CC1=CC=CC=C1)Br | C18H15BrN6
reactant | ammonia | N | H3N
reactant | methanol | 50 ml | CO | CH4O
solvent | hydrochloric acid | 200 ml | Cl | ClH
product | 6-Amino-2-anilino-9-benzyl-8-hydroxypurine | NC1=C2N=C(N(C2=NC(=N1)NC1=CC=CC=C1)CC1=CC=CC=C1)O | C18H16N6O
